US05496928
To a solution of Boc-DTrp-OBzl (12.19 g) in dichloromethane (60 ml) were added methyl chloroformate (4.8 ml), pulverized sodium hydroxide (4.1 g) and TBAHS (9.2 g), and the mixture was stirred at room temperature for 4 h. The reaction mixture was washed with water, dried over MgSO4 and evaporated in vacuo. The residue was crystallized from dichloromethane and hexane to give Boc-DTrp(COOMe)-OBzl (12.57 g). Boc-DTrp(COOMe)-OBzl (4.52 g) was dissolved in 4N-hydrogen chloride/1,4-dioxane (50 ml) and the mixture was stirred at room temperature for 45 min. Ethyl ether (50 ml) was added to the mixture to complete the precipitation. The precipitate was collected by filtration and dried in vacuo to give H-DTrp(COOMe)-OBzl·HCl (3.71 g). To a suspension of H-DTrp(COOMe)-OBzl·HCl (1.94 g) in dichloromethane (50 ml) were added NMM (0.55 ml), 2,6-dimethylpiperidinocarbonyl-γMeLeu-OH (1.42 g), HOBT·H2O (0.84 g) and EDCI·HCl (1.05 g) under ice cooling. The mixture was stirred at the same temperature for 2 h and at room temperature over night. The reaction mixture was washed with sat. aq NaHCO3 (50 ml), 10% aq. citric acid (50 ml) and brine (50 ml) successively, dried over MgSO4 and evaporated. The residue was purified by MPLC (Merck, LiChroprep Si 60) with hexane/ethyl acetate=2/1 for elution to give 2,6-dimethylpiperidinocarbonyl-γMeLeu-DTrp(COOMe)-OBzl (1.17 g). A solution of 2,6-dimethylpiperidinocarbonyl-γMeLeu-DTrp(COOMe)-OBzl (1.10 g) in methanol (30 ml) was hydrogenated over 10% Pd/C (50 mg) at an atmospheric pressure of hydrogen for 1.5 h. After removal of the catalyst by filtration, the filtrate was evaporated in vacuo to give the product (0.93 g).

reactant | Boc-DTrp(COOMe)-OBzl | 4.52 g | N([C@H](CC1=CN(C2=CC=CC=C12)C(=O)OC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H28N2O6
reactant | Ethyl ether | 50 ml | C(C)OCC | C4H10O
reactant | hydrogen chloride 1,4-dioxane | 50 ml | Cl.O1CCOCC1
product | H-DTrp(COOMe)-OBzl·HCl | 3.71 g | N[C@H](CC1=CN(C2=CC=CC=C12)C(=O)OC)C(=O)OCC1=CC=CC=C1.Cl | InChI=1S/C20H20N2O4.ClH/c1-25-20(24)22-12-15(16-9-5-6-10-18(16)22)11-17(21)19(23)26-13-14-7-3-2-4-8-14;/h2-10,12,17H,11,13,21H2,1H3;1H/t17-;/m1./s1
